US04675324
A mixture of 6-chloro-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (200.5 g) and 1,5-diazabicyclo[5,4,0 ]undecene-5 (384.9 g) in ethyl formate (400.9 g) was heated at 55° C. with stirring for 7 hours and then diluted with cold water (450 ml). The mixture was washed successively with diisopropyl ether and ethyl acetate and then the aqueous layer was acidified with hydrochloric acid under ice cooling. The resultant precipitate was collected by filtration and dried to give 6-chloro-3-hydroxymethylene-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (168.29 g).

reactant | 6-chloro-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 200.5 g | ClC=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C12H12ClNO2
reactant | ethyl formate | 400.9 g | C(=O)OCC | C3H6O2
solvent | water | 450 ml | O | H2O
product | 6-chloro-3-hydroxymethylene-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 168.29 g | ClC=1C=C2C(C(CN(C2=CC1)C(CC)=O)=CO)=O | C13H12ClNO3
